US06544985B2
(5-Fluoro-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared via the di-Boc-compound from 5-fluoro-2-nitro-4-trifluoromethyl-phenylamine; prepared from commercially available 4-amino-2-fluorobenzotrifluoride by acetylation withAc2O in toluene at 23° C., nitration with 100% nitric acid from 10-23° C. and deacetylation with 2N NaOH in THF at 50° C.] (5.21 g, 23.2 mmol) and Boc2O (10.63 g, 48.7 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure B (method c). Obtained as a light yellow solid (6.33 g, 84%).

reactant | 5-fluoro-2-nitro-4-trifluoromethyl-phenylamine | FC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4F4N2O2
reactant | 4-amino-2-fluorobenzotrifluoride | NC1=CC(=C(C=C1)C(F)(F)F)F | C7H5F4N
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | Boc2O | 48.7 mmol, 10.63 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-Fluoro-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)C(F)(F)F)[N+](=O)[O-])=O | C12H12F4N2O4
